US08053457B2
(4-Indan-1-yl-piperazin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 1-Indan-1-yl-piperazine (commercially available from CHESS GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+H=242.2: CtRet=4.25.

reactant | 1-Indan-1-yl-piperazine | C1(CCC2=CC=CC=C12)N1CCNCC1 | C13H18N2
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Indan-1-yl-piperazin-1-yl)-acetonitrile | C1(CCC2=CC=CC=C12)N1CCN(CC1)CC#N | C15H19N3
